US08012974B2
Racemic cis benzyl-(1-methanesulfonyl-3-methyl-piperidin-4-yl)-amine was prepared in the same manner from racemic 1-methanesulfonyl-3-methyl-piperidin-4-one. In this instance, benzylamine was used instead of (R)-1-phenylethylamine.

reactant | racemic 1-methanesulfonyl-3-methyl-piperidin-4-one | CS(=O)(=O)N1CC(C(CC1)=O)C | C7H13NO3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | Racemic cis benzyl-(1-methanesulfonyl-3-methyl-piperidin-4-yl)-amine | C(C1=CC=CC=C1)N[C@@H]1[C@@H](CN(CC1)S(=O)(=O)C)C | C14H22N2O2S
